US07084155B2
AMD9398: Preparation of N-(5-butyl-2-pyridinylmethyl)-N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (hydrobromide salt)
Using general procedure B: N-(1H-benzimidazol-2-ylmethyl)-N-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (0.1258 g, 0.316 mmol) and 5-n-butylpyridine-2-carboxaldehyde (0.0603 g, 0.294 mmol) were reacted with NaBH(OAc)3 (0.0942 g, 0.444 mmol) in CH2Cl2 (2.5 mL). Purification of the crude material by radial chromatography (2 mm TLC plate, 50:1:1 CH2Cl2: CH3OH: NH4OH) provided 0.0713 g (45%) of AMD9398 (free base).

reactant | N-(1H-benzimidazol-2-ylmethyl)-N-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.316 mmol, 0.1258 g | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | 5-n-butylpyridine-2-carboxaldehyde | 0.294 mmol, 0.0603 g | C(CCC)C=1C=CC(=NC1)C=O | C10H13NO
reactant | NaBH(OAc)3 | 0.444 mmol, 0.0942 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | N-(5-butyl-2-pyridinylmethyl)-N′-(1H-benzimidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | C(CCC)C=1C=CC(=NC1)CNCC1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2 | C35H40N6
